US05998412
N,N-dimethylformamide di-tert-butyl acetal (134 mg, 0.66 mmol) was added to a solution of 2-(R)-{[4-(4-chlorobenzoyl)piperidine-1-sulfonyl]amino}-3-methylbutyric acid (90 mg, 0.22 mmol) in toluene (2.5 ml) at 90° C. The reaction was stirred for 3 h and concentrated to give tert-butyl 2-(R)-{[4-(4-chlorobenzoyl)piperidine-1-sulfonyl]amino}-3-methylbutyric acid that was used in the next step with no further purification.

reactant | N,N-dimethylformamide di-tert-butyl acetal | 0.66 mmol, 134 mg | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 2-(R)-{[4-(4-chlorobenzoyl)piperidine-1-sulfonyl]amino}-3-methylbutyric acid | 0.22 mmol, 90 mg | ClC1=CC=C(C(=O)C2CCN(CC2)S(=O)(=O)N[C@@H](C(=O)O)C(C)C)C=C1 | C17H23ClN2O5S
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(R)-{[4-(4-chlorobenzoyl)piperidine-1-sulfonyl]amino}-3-methylbutyric acid | C(C)(C)(C)[C@@](C(=O)O)(C(C)C)NS(=O)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)Cl)=O | C21H31ClN2O5S
